US05338743
To a suspension of 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (1.0 g) and sodium hydride (60% 0.15 g) in N,N-dimethylformamide (10 ml) was added acetoxyethyl bromide (0.58 g) at 5° C., and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was poured into ice-water, and extracted twice with ethyl acetate. The extracts were combined, washed successively with 1N sodium hydroxide solution and sodium chloride aqueous solution, dried over magnesium sulfate, and then evaporated in vacuo. The residue was dissolved in 1,4-dioxane (12 ml) and a solution of sodium hydroxide (0.34 g) in water (1.5 ml) was added thereto. The reaction mixture was stirred at 60° C. for 3 hours, and evaporated in vacuo. The residue was treated with water and extracted with chloroform. The extract was washed with sodium chloride aqueous solution, dried over magnesium sulfate, and then evaporated in vacuo. The residue was crystallized from ethyl acetate to afford 3-[ 2-(2-hydroxyethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.84 g).

reactant | 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 1.0 g | O=C1NN=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | acetoxyethyl bromide | 0.58 g | C(C)(=O)OCCBr | C4H7BrO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[ 2-(2-hydroxyethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.84 g | OCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C19H16N4O2
